US05304644
(a) 5-chloro-2-(4-chloro-2-nitrophenoxy)benzaldehyde
To a stirred solution of 5-chlorosalicylaldehyde (8.56 g) in N,N-dimethylformamide (90 mL) under nitrogen was added, in portions, sodium hydride (1.37 g). To the resulting solution was added 2,5-dichloro-1-nitrobenzene (10.0 g) and N,N-dimethylformamide (10 mL), and the reaction was heated at 100° C. under nitrogen for 6 hours. The reaction was evaporated under vacuum, and the residue was partitioned between chloroform and 1 N NaOH. The layers were separated, and the aqueous layer was extracted once more with chloroform. The combined chloroform extracts were washed with 1 N NaOH, water, 1 N HCl, water, and brine, dried over magnesium sulfate, and evaporated under vacuum. Crystallization from methanol yielded the title compound as a yellow solid. Mp: 128°-130° C.

reactant | 5-chlorosalicylaldehyde | 8.56 g | ClC1=CC=C(C(C=O)=C1)O | C7H5ClO2
reactant | sodium hydride | 1.37 g | [H-].[Na+]
reactant | 2,5-dichloro-1-nitrobenzene | 10.0 g | ClC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
solvent | N,N-dimethylformamide | 90 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 5-chloro-2-(4-chloro-2-nitrophenoxy)benzaldehyde | ClC=1C=CC(=C(C=O)C1)OC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C13H7Cl2NO4
